US04013473
To 470 g of phenol and 100 g of an acid-activated fuller's earth 1020 g of cyclopentene are added dropwise at 140° C whereupon the mixture is stirred at the same temperature for 15 h. After elimination of the catalyst by filtration the reaction mixture is distilled by fractionation. Besides 2,4,6-tricyclopentylphenol 173 g of a fraction are obtained having a boiling range of 205° to 212° C at 1.4 mm Hg which are recrystallised from ligroin. Yield: 143 g of 2,4,5-tricyclopentylphenol. Melting point: 104° C.

reactant | phenol | 470 g | C1(=CC=CC=C1)O | C6H6O
reactant | cyclopentene | 1020 g | C1=CCCC1 | C5H8
product | 2,4,6-tricyclopentylphenol | 173 g | C1(CCCC1)C1=C(C(=CC(=C1)C1CCCC1)C1CCCC1)O | C21H30O
